US07678818B2
A solution of 150 mg (0.31 mmol) of 2-amino-N-(4-tert-butyl-benzyl)-5-chloro-N-[2-(3-trifluoromethyl-phenyl)-ethyl]-benzamide and 76 mg (0.46 mmol) of formylpropionic acid ethylester (prepared by stirring 3,3-diethoxypropionic acid ethylester at RT with 1N—HCl followed by extraction with diethylether and concentration in vacuo) in 3 ml EtOH was refluxed for two hours. The reaction mixture was cooled down to RT and reacted with 17 mg (0.46 mmol) of sodium borohydride. After 5 min at RT and 30 min under reflux additional 9 mg (0.29 mmol) of sodium borohydride were added followed by 5 min at RT and 30 min under reflux. The reaction mixture was then concentrated, treated with diethylether and 2 drops 1N—HCl, and extracted twice with ethylacetate. The combined organic layers were washed with brine, dried over magnesium sulfate, filtered and concentrated in vacuo. The residue was purified by column chromatography (silica gel; heptane/EtOAc 90:10 to 50:50) to give 53 mg (28%) of 3-(2-{(4-tert-butyl-benzyl)-[2-(3-trifluoromethyl-phenyl)-ethyl]-carbamoyl}-4-chloro-phenylamino)-propionic acid ethyl ester as a light yellow viscous oil [MS (ISP) 489.4 (M+H)+] and 12 mg (7%) of N-(4-tert-butyl-benzyl)-5-chloro-2-(3-hydroxy-propylamino)-N-[2-(3-trifluoromethyl-phenyl)-ethyl]-benzamide as light yellow amorphous solid [MS (ISP) 547.4 (M+H)+]. A solution of 42 mg (0.07 mmol) of 3-(2-{(4-tert-butyl-benzyl)-[2-(3-trifluoromethyl-phenyl)-ethyl]-carbamoyl}-4-chloro-phenylamino)-propionic acid ethyl ester in 1 ml EtOH and 0.14 ml 1N-NaOH was stirred at 50° C. for 17 hours. The reaction mixture was concentrated in vacuo, treated with water and the pH was adjusted to 3 with 1N—HCl. The mixture was extracted twice with diethylether, washed with brine, dried over magnesium sulfate, filtered and concentrated in vacuo to give 39 mg (93%) of 3-(2-{(4-tert-butyl-benzyl)-[2-(3-trifluoromethyl-phenyl)-ethyl]-carbamoyl}-4-chloro-phenylamino)-propionic acid as an off-white foam. MS (ISP) 561.5 (M+H)+.

reactant | 3-(2-{(4-tert-butyl-benzyl)-[2-(3-trifluoromethyl-phenyl)-ethyl]-carbamoyl}-4-chloro-phenylamino)-propionic acid ethyl ester | 0.07 mmol, 42 mg | C(C)OC(CCNC1=C(C=C(C=C1)Cl)C(N(CCC1=CC(=CC=C1)C(F)(F)F)CC1=CC=C(C=C1)C(C)(C)C)=O)=O | C32H36ClF3N2O3
reactant | NaOH | [OH-].[Na+]
solvent | EtOH | 1 ml | CCO | C2H6O
product | 3-(2-{(4-tert-butyl-benzyl)-[2-(3-trifluoromethyl-phenyl)-ethyl]-carbamoyl}-4-chloro-phenylamino)-propionic acid | 39 mg, 93% | C(C)(C)(C)C1=CC=C(CN(C(=O)C2=C(C=CC(=C2)Cl)NCCC(=O)O)CCC2=CC(=CC=C2)C(F)(F)F)C=C1 | C30H32ClF3N2O3
